data/mechanisms/records/IMS8-EQ8.56e.json
{"mechanism_id": "IMS8-EQ8.56e", "species": [{"species_id": "distonic_oxonium_c3h6o", "mapped_smiles": "[CH2:5][CH2:6][O+:1]=[CH2:2]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:5]=[CH2:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "formaldehyde_radical_cation", "mapped_smiles": "[CH2:2]=[O+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_oxonium_c3h6o"]}, {"state_id": "state_products", "species_ids": ["ethylene_neutral", "formaldehyde_radical_cation"]}], "steps": [{"step_id": "step_alpha_second_ethylene_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_second_ethylene_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_second_ethylene_loss", "support_type": "textbook_proposed", "locator": {"page": 182, "equation": "8.56", "figure": null, "panel": null, "section": null}, "confidence": 0.8, "curator_note": "Last step drawn on the 8.56 line: the m/z 58 distonic oxonium ion .CH2CH2-O+=CH2 carries two fishhooks and an 'alpha'-labelled reaction arrow to 'CH2=O+. + C2H4, m/z 30, 5%'. A second radical-site alpha-cleavage: the tail radical (C5) forms the C5=C6 pi bond while the C6-O bond breaks, expelling neutral ethylene and leaving the formaldehyde radical cation. Book draws 2 arcs, both terminating on the forming C5=C6 bond: move <1> (the tail radical's odd electron, drawn from the dot) and move <2> (one electron of the breaking C6-O sigma bond, drawn from that bond); move <3> (the other C6-O electron onto oxygen, which becomes the radical site of CH2=O+.) is an implicit homolysis hook required for electron balance (not drawn on the page)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization (consecutive decomposition of an EI fragment ion)", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 58.0413, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ch2o_m30", "species_id": "formaldehyde_radical_cation", "step_id": "step_alpha_second_ethylene_loss", "observed_mz": 30.01, "relative_intensity": 0.05, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
